US05977105
c) (±)-5-(2-Naphthyl)-1-(3-pyridyl)-3-pentanol
5-(2-Naphthyl)-1-(3-pyridyl)-3-pentanone (0.327 g) and sodium borohydride were dissolved in ethanol (30 ml) and stirred overnight at room temperature. Water was added to the solution and the mixture extracted with ethyl acetate. The combined extracts were dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The residue was purified by column chromatography over silica eluting with ethyl acetate:dichloromethane (2:1) to yield the title compound as a white solid (0.117 g).

reactant | 5-(2-Naphthyl)-1-(3-pyridyl)-3-pentanone | 0.327 g | C1=C(C=CC2=CC=CC=C12)CCC(CCC=1C=NC=CC1)=O | C20H19NO
reactant | sodium borohydride | [BH4-].[Na+]
reactant | Water | O | H2O
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | (±)-5-(2-Naphthyl)-1-(3-pyridyl)-3-pentanol | 0.117 g | C1=C(C=CC2=CC=CC=C12)CCC(CCC=1C=NC=CC1)O | C20H21NO
